US04863945
5-Acetyl-7,7-dimethyl-2-phenyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol
A mixture of 2.2 g. (10 mmole) 1-acetyl-5,6-diamino-3,3-dimethylindoline, 200 ml. methanol, 5.2 ml. acetic acid, 1.0 ml. benzaldehyde and 50 mg. manganese dioxide is stirred for 3 hours at ambient temperature while passing in air. The reaction mixture is then filtered, the filtrate evaporated and the residue chromatographed on silica gel. After evaporation of the appropriate fractions and trituration with diethyl ether, there is obtained 0.8 g. (26% of theory) of the title compound; m.p. 225°-227° C.

reactant | 1-acetyl-5,6-diamino-3,3-dimethylindoline | 10 mmole | C(C)(=O)N1CC(C2=CC(=C(C=C12)N)N)(C)C | C12H17N3O
reactant | methanol | CO | CH4O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Acetyl-7,7-dimethyl-2-phenyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol | C(C)(=O)N1CC(C=2C1=CC1=C(N=C(N1)C1=CC=CC=C1)C2)(C)C | C19H19N3O
